US03994871
4. H-Thr(But)-Ser(But)-OMe
3.27 g of Z-Thr(But)-Ser(But)-OMe in 50 ml of ethyl acetate are hydrogenated in the presence of 0.5 g of palladium on charcoal (10% strength). After the absorption of hydrogen has ceased (1 hour), the catalyst is filtered off and the solution is evaporated. The product, which is obtained as an oil, is a single substance according to thin layer chromatography.

reactant | Z-Thr(But)-Ser(But)-OMe | 3.27 g | N([C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C24H38N2O7
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | H-Thr(But)-Ser(But)-OMe | N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC | C16H32N2O5
